US06248739B1
N-(4-Chlorobenzyl)-1-([(4-chlorophenyl)sulfanyl]methyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A suspension of N-(4-chlorobenzyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (0.25 gm) from Preparation No. 40 and cesium carbonate (0.39 gm) in DMF (3 mL) is treated with chloromethyl 4-chlorophenyl sulfide (0.13 mL). The mixture is tightly capped and heated to 105° C. for 2 hrs. The reaction mixture is allowed to cool to room temperature, diluted with dichloromethane (50 mL), washed with water (2×10 mL), brine, dried (Na2SO4) and concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with 1% to 3% methanol in dichloromethane and then by trituration with ethyl acetate to afford 0.26 gm of the title compound as a white solid.

reactant | 4-chlorobenzyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.25 gm | ClC1=CC=C(CC2=NC3=CC=C(C=C3C(=C2C(=O)N)O)CN2CCOCC2)C=C1 | C22H22ClN3O3
reactant | cesium carbonate | 0.39 gm | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloromethyl 4-chlorophenyl sulfide | 0.13 mL | ClC1=CC=C(C=C1)SCCl | C7H6Cl2S
reactant | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-1-([(4-chlorophenyl)sulfanyl]methyl)-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.26 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CSC2=CC=C(C=C2)Cl)C=C1 | C29H27Cl2N3O3S
